US04016209
A mixture of 2 g. of 3-[N'-formyl-N'-(3-hydroxypropyl)amino]-N,N,N-trimethyl-1-propanaminium chloride 4 g. of 99% formic acid and 2 ml. of formalin is stirred and heated at 100° for 17 hours. To the cooled mixture is added 11 ml. of concentrated hydrochloric acid and the reaction mixture is concentrated under reduced pressure. The product is taken up in 35 ml. of 1 N hydrochloric acid and the solution is filtered and concentrated to dryness under reduced pressure yielding 3-[N'-(3-hydroxypropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium chloride hydrochloride.

reactant | 3-[N'-formyl-N'-(3-hydroxypropyl)amino]-N,N,N-trimethyl-1-propanaminium chloride | 4 g | [Cl-].C(=O)N(CCCO)CCC[N+](C)(C)C
reactant | formalin | C=O | CH2O
solvent | formic acid | C(=O)O | CH2O2
product | 3-[N'-(3-hydroxypropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium chloride hydrochloride | Cl.[Cl-].OCCCN(C)CCC[N+](C)(C)C | InChI=1S/C10H25N2O.2ClH/c1-11(8-6-10-13)7-5-9-12(2,3)4;;/h13H,5-10H2,1-4H3;2*1H/q+1;;/p-1
